US08003649B2
A stirred solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (5.56 g, 25 mmol), azetidin-3-ol hydrochloride (3.01 g, 27.50 mmol) and DIPEA (10.89 mL, 62.50 mmol) in DMF (50 mL) was heated at 70° C. for 1 hour. The solution was slowly diluted with water and the product crystallised. The precipitate was collected by filtration, washed with water, drained well and washed with ether. It was dried under vacuum to afford 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]azetidin-3-ol (5.30 g, 82%) as a white crystalline solid.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 25 mmol, 5.56 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | azetidin-3-ol hydrochloride | 27.50 mmol, 3.01 g | Cl.N1CC(C1)O
reactant | DIPEA | 62.50 mmol, 10.89 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]azetidin-3-ol | 5.30 g, 82% | FC(C1=NN=C2N1N=C(C=C2)N2CC(C2)O)(F)F | C9H8F3N5O
